US04713457
6-Methylergolin-8β-ylmethyl tosylate [Compound described in Helv. Chem. Acta., Vol. 41, 1984 (1958); Collect. Czech. Chem. Commun., Vol. 33, 577 (1968); etc.]
5.0 g of p-toluenesulfonyl chloride was added in small portions to a mixture of 5.0 g of 6-methylergolin-8β-ylmethanol and 50 ml of pyridine while stirring, and the resulting mixture was stirred for 3 hours. After completion of the reaction, 4 ml of water was added to the mixture which was then stirred for 30 minutes. The mixture was diluted with ice-water, rendered alkaline with potassium carbonate and allowed to stand. The precipitated crystals were separated by filtration, washed with water and dried to obtain 6.9 g of the titled compound as colorless crystals. The crystals thus obtained were recrystallized from dichloromethane-isopropyl acetate to obtain colorless leaflets having a melting point of 195°-199° C. (with decomposition).

reactant | p-toluenesulfonyl chloride | 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6-methylergolin-8β-ylmethanol | 5.0 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CO | C16H20N2O
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 4 ml | O | H2O
product | 6-Methylergolin-8β-ylmethyl tosylate | 6.9 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
